US07838674B2
3-Aminomethyl-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
3-Cyano-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (7.75 g; 30.5 mmol) in methanol (1000 ml) is combined with wet RaNi (˜28 g) and hydrogenated at room temperature under 1 atm of hydrogen for 2 hours. The reaction mixture is filtered and evaporated to dryness to yield the title compound as light brown resin, which crystallizes slowly (6.8 g; 91%).

reactant | 3-Cyano-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 30.5 mmol, 7.75 g | C(C)OC(=O)C1(CN(C1)C(=O)OC(C)(C)C)C#N | C12H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1000 ml | CO | CH4O
catalyst | RaNi | ˜28 g | [Ni] | Ni
product | 3-Aminomethyl-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C1(CN(C1)C(=O)OC(C)(C)C)CN | C11H20N2O4
